US07449456B2
A 10 ml 1,4-dioxane solution of 738 mg of tert-butyl 4-(4-{[5-(aminocarbonyl)-4- (benzylamino)pyrimidin-2-yl]amino }phenyl)piperazin- 1 -carboxylate was mixed with 2.77 ml of 4 M hydrogen chloride/1,4-dioxane solution and 3 ml of water, followed by stirring at 90° C. for 2 hours. The reaction mixture was cooled down to room temperature, diluted with water, mixed with saturated sodium bicarbonate aqueous solution and then extracted with an ethyl acetate-THF mixed solution. After washing of the organic layer with saturated brine and subsequent evaporation of the solvent, the resulting solid was recrystallized (THF-ethanol) to obtain 413 mg of 4-benzylamino-2- {[4-(piperazin- 1 -yl)phenyl]amino}pyrimidine-5- carboxamide as ivory-colored crystals.

reactant | 1,4-dioxane | 10 ml | O1CCOCC1 | C4H8O2
reactant | tert-butyl 4-(4-{[5-(aminocarbonyl)-4- (benzylamino)pyrimidin-2-yl]amino }phenyl)piperazin- 1 -carboxylate | 738 mg | NC(=O)C=1C(=NC(=NC1)NC1=CC=C(C=C1)N1CCN(CC1)C(=O)OC(C)(C)C)NCC1=CC=CC=C1 | C27H33N7O3
reactant | hydrogen chloride 1,4-dioxane | 4 M, 2.77 ml | Cl.O1CCOCC1
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | water | O | H2O
solvent | water | 3 ml | O | H2O
product | 4-benzylamino-2- {[4-(piperazin- 1 -yl)phenyl]amino}pyrimidine-5- carboxamide | 413 mg | C(C1=CC=CC=C1)NC1=NC(=NC=C1C(=O)N)NC1=CC=C(C=C1)N1CCNCC1 | C22H25N7O
